US06133303
2-Furan-2-ylmethylene-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 6, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.250 g, 0.98 mmol) was reacted with 2-furaldehyde (0.151 g, 1.57 mmol) in 3.0 mL of 4% KOH in EtOH for 15 hours at room temperature to afford 0.220 g (67%) of the title compound as a light tan solid, mp 109-110° C.: CI-MS m/e 334 (M+), 335 (M+ +1);

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.250 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 2-furaldehyde | 1.57 mmol, 0.151 g | O1C(=CC=C1)C=O | C5H4O2
solvent | KOH | 3.0 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-Furan-2-ylmethylene-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.220 g, 67% | O1C(=CC=C1)C=C1C(C2=CC=C(C=C2CC1)OCCN1C=NC=C1)=O | C20H18N2O3
